US08030300B2
5-(1-Ethynyl)-3-(1-methyl-2(S)-pyrrolidinylmethoxy)pyridine:
To a stirred solution of 5-(3-hydroxy-3-methyl-1-butynyl)-3-(1-methyl-2(S) -pyrrolidinylmethoxy)pyridine (70 mg, 0.25 mmol) in toluene (3 mL) was added NaH (60% in mineral oil, 2 mg, 0.05 mmol). The reaction mixture was refluxed for 1 h, and then some toluene was distilled. After cooled, the mixture was treated with ice-cold water, and extracted with EtOAc (15 mL×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified by chromatography with CH2Cl2-MeOH (5:1) to give a light yellow oil (55 mg, 99%), [α]D−59 (c 1.4, CHCl3). 1H NMR (CDCl3) δ 8.32 (d, 1H, J=1.5 Hz), 8.29 (d, 1H, J=2.7 Hz), 7.28 (dd, 1H, J=2.7, 1.5 Hz), 4.01 (dd, 1H, J=9.3, 5.4 Hz), 3.93 (dd, 1H, J=9.3, 5.4 Hz), 3.20 (s, 1H), 3.16-3.09 (m, 1H), 2.73-2.63 (m, 1H), 2.48 (s, 3H), 2.32 (td, 1H, J=9.3, 7.2 Hz), 2.10-1.97 (m, 1H), 1.94-1.67 (m, 3H); 13C NMR (CDCl3) δ 154.38, 145.01, 138.27, 123.50, 119.26, 80.27, 71.12, 64.03, 57.67, 41.65, 28.47, 23.01.

reactant | 5-(3-hydroxy-3-methyl-1-butynyl)-3-(1-methyl-2(S) -pyrrolidinylmethoxy)pyridine | 0.25 mmol, 70 mg | OC(C#CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C)(C)C | C16H22N2O2
reactant | NaH | 0.05 mmol, 2 mg | [H-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(1-Ethynyl)-3-(1-methyl-2(S)-pyrrolidinylmethoxy)pyridine | 55 mg, 99% | C(#C)C=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C13H16N2O
